US06780471B2
1,1′-Bis-(trihydroxysilyl)ferrocene
A solution of 1,1′ bis-(trimethoxysilyl)ferrocene (1.25 g, 2.93 mmol) in 3 ml of ether was stirred vigorously with 1.37 ml of 0.5% acetic acid solution for 75 days. The final orange suspension was filtered and the solid was washed three times with ethanol, acetone and ether.

reactant | 1,1′ bis-(trimethoxysilyl)ferrocene | 2.93 mmol, 1.25 g | CO[Si]([C-]1C=CC=C1)(OC)OC.[C-]1(C=CC=C1)[Si](OC)(OC)OC.[Fe+2]
reactant | acetic acid | 1.37 ml | C(C)(=O)O | C2H4O2
solvent | ether | 3 ml | CCOCC | C4H10O
product | 1,1′-Bis-(trihydroxysilyl)ferrocene | O[Si]([C-]1C=CC=C1)(O)O.[C-]1(C=CC=C1)[Si](O)(O)O.[Fe+2] | InChI=1S/2C5H7O3Si.Fe/c2*6-9(7,8)5-3-1-2-4-5;/h2*1-4,6-8H;/q2*-1;+2
